US06852863B2
NaH (60% by weight in oil, 23 mg, 0.55 mmol) was washed with DMF (5 mL) and fresh DMF (5 mL) was added. The reaction was cooled to 0° C. and a solution of {3-[(pyridine-3-sulfonylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester (184 mg, 0.486 mmol) in DMF (1 mL) was added. The reaction was stirred for 1 h and 2-(4-bromomethyl-phenyl)-2-methyl-propionic acid ethyl ester (145 mg, 0.51 mmol) in DMF (1 mL) was added. The reaction was warmed to room temperature and was heated at 100° C. for 2 h. Water was added and the aqueous solution was washed with EtOAc (3×). The combined organic solutions were washed with water (5×), dried (MgSO4), filtered and concentrated. Flash chromatography (2:1 hexanes:EtOAc) provided 2-(4-{[(3-tert-butoxycarbonylmethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester (138 mg). 1H NMR (400 MHz, CDCl3) δ 9.01 (s, 1H), 8.76 (m, 1H), 7.97 (m, 1H), 7.40 (m, 1H), 7.19 (d, 2H), 7.13 (m, 1H), 7.02 (d, 2H), 6.76 (m, 1H), 6.67 (m, 2H), 4.41 (s, 2H), 4.33 (s, 4H), 4.10 (q, 2H), 1.52 (s, 6H), 1.49 (s, 9H), 1.17 (t, 3H).

reactant | NaH | 0.55 mmol, 23 mg | [H-].[Na+]
reactant | {3-[(pyridine-3-sulfonylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.486 mmol, 184 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNS(=O)(=O)C=1C=NC=CC1)=O | C18H22N2O5S
reactant | 2-(4-bromomethyl-phenyl)-2-methyl-propionic acid ethyl ester | 0.51 mmol, 145 mg | C(C)OC(C(C)(C)C1=CC=C(C=C1)CBr)=O | C13H17BrO2
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-{[(3-tert-butoxycarbonylmethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester | 138 mg | C(C)OC(C(C)(C)C1=CC=C(C=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC(=CC=C1)OCC(=O)OC(C)(C)C)=O | C31H38N2O7S
